US07902197B2
N-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N-methyl-benzamide
A mixture of 1-[2-Bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.25 g, 0.61 mmol), N-Methyl-benzamide (0.243 g, 1.8 mmol), K2CO3 (0.185 g, 1.34 mmol), CuI (0.0175 g, 0.092 mmol) and N,N′-Dimethyl-ethane-1,2-diamine (0.02 mL, 0.184 mmol) in tolene was heated under an argon atmosphere in a microwave oven at 110° C. overnight. After cooling to room temperature, the reaction mixture was purified by flash column chromatography on silica gel with EtOAc in hexane (10% to 40% gradient over 30 min) to give the desired product (60 mg, 21% yield) as a yellow oil. 1H NMR (CDCl3, 300 MHz): δ 8.43 (s, 1H), 8.04 (s, 1H), 7.45-7.24 (m, 5H), 5.65 (s, 2H), 3.74 (s, 3H), 3.62-3.59 (m, 2H), 1.51 (s, 9H), 0.99-0.94 (m, 2H), 0 (s, 9H); MS [M+H]+: 467. Step 2: The general procedures as described in these Examples were followed. 1H NMR (CDCl3): δ 9.50 (s, 1H), 8.35 (s, 1H), 8.00 (s, 1H), 7.39-7.21 (m, 5H), 3.69 (s, 3H), 1.45 (s, 9H); MS [M+H]+: 337.

reactant | 1-[2-Bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.61 mmol, 0.25 g | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | N-Methyl-benzamide | 1.8 mmol, 0.243 g | CNC(C1=CC=CC=C1)=O | C8H9NO
reactant | K2CO3 | 1.34 mmol, 0.185 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N′-Dimethyl-ethane-1,2-diamine | 0.184 mmol, 0.02 mL | CNCCNC | C4H12N2
catalyst | CuI | 0.092 mmol, 0.0175 g | [Cu]I
product | N-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N-methyl-benzamide | 60 mg, 21% yield | CC(C(=O)C1=CNC2=NC=C(N=C21)N(C(C2=CC=CC=C2)=O)C)(C)C | C19H20N4O2
